US07745641B2
7-Amino-4-bromoisoindolinone (150 mg, 0.661 mmol) was dissolved in dimethoxythane (10.5 mL), and the solution was added with 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaboran-2-yl)phenol (331 mg, 1.32 mmol), [bis(diphenylphosphino)ferrocene]dichloropalladium (43.2 mg, 0.0529 mmol) and potassium carbonate (456 mg, 3.31 mmol), and stirred at 90° C. for 4.3 hours under argon atmosphere. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by preparative thin-layer chromatography (chloroform/acetonitrile=4/1, chloroform/methanol=10/1) to obtain 7-amino-4-(4-hydroxy-3-methoxyphenyl)isoindolinone (169 mg, yield 94%).

reactant | 7-Amino-4-bromoisoindolinone | 0.661 mmol, 150 mg | NC=1C=CC(=C2CNC(C12)=O)Br | C8H7BrN2O
reactant | potassium carbonate | 3.31 mmol, 456 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
product | 7-amino-4-(4-hydroxy-3-methoxyphenyl)isoindolinone | 169 mg, yield 94% | NC=1C=CC(=C2CNC(C12)=O)C1=CC(=C(C=C1)O)OC | C15H14N2O3
